US06525042B1
4-Bromo-3-hydroxybenzoic acid
In acetic acid (24.5 ml), 3-hydroxybenzoic acid (5.00 g) was suspended. To the resulting suspension, a solution of bromine (1.9 ml) in acetic acid (acetic acid: 5 ml) was added dropwise under ice cooling, followed by stirring at room temperature for 33 hours. The reaction mixture was ice cooled. The crystals so precipitated were collected by filtration and then washed with acetic acid, whereby the title compound (1.68 g, 21%) was obtained.

reactant | 3-hydroxybenzoic acid | 5.00 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | bromine | 1.9 ml | BrBr | Br2
solvent | acetic acid | 24.5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-3-hydroxybenzoic acid | BrC1=C(C=C(C(=O)O)C=C1)O | C7H5BrO3
